US09085575B2
A solution of 1.8 g (2.55 mmol) of 5-(4-(benzyloxy)-3-(trifluoromethyl)phenyl)-3-(4-methoxybenzyl)-1-methyl-9-(piperazin-1-yl)-3H-benzo[f]pyrazolo[3,4-c][2,7]naphthyridin-6(7H)-one dissolved in 25 ml of trifluoroacetic acid is carried at 70° C. for 3 hours. After returning to room temperature, 50 ml of diisopropyl ether is added until a stable precipitate appears; the latter is filtered and then taken up in water. Acidity is neutralized by the addition of 1 M soda. The solid is filtered again and then triturated several times in hot methanol to yield after a final filtration 950 mg of 5-(4-hydroxy-3-(trifluoromethyl)phenyl)-1-methyl-9-(piperazin-1-yl)-3H-benzo[f]pyrazolo[3,4-c][2,7]naphthyridin-6(7H)-one. The product is then taken up in 20 ml of anhydrous dioxane; a 4 M solution of hydrochloric acid in dioxane (932 μl, 3.73 mmol) is added and the reaction medium is stirred at room temperature for 2 hours. The precipitate is filtered, rinsed with dioxane and triturated in methanol to yield 475 mg (36%) of 5-(4-hydroxy-3-(trifluoromethyl)phenyl)-1-methyl-9-(piperazin-1-yl)-3H-benzo[f]pyrazolo[3,4-c][2,7]naphthyridin-6(7H)-one hydrochloride in the form of a yellow solid.

reactant | 5-(4-(benzyloxy)-3-(trifluoromethyl)phenyl)-3-(4-methoxybenzyl)-1-methyl-9-(piperazin-1-yl)-3H-benzo[f]pyrazolo[3,4-c][2,7]naphthyridin-6(7H)-one | 2.55 mmol, 1.8 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C1=NC2=C(C=3C4=C(NC(C13)=O)C=C(C=C4)N4CCNCC4)C(=NN2CC2=CC=C(C=C2)OC)C)C(F)(F)F | C40H35F3N6O3
reactant | diisopropyl ether | 50 ml | C(C)(C)OC(C)C | C6H14O
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 3.73 mmol, 932 μl | O1CCOCC1 | C4H8O2
solvent | trifluoroacetic acid | 25 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 5-(4-hydroxy-3-(trifluoromethyl)phenyl)-1-methyl-9-(piperazin-1-yl)-3H-benzo[f]pyrazolo[3,4-c][2,7]naphthyridin-6(7H)-one hydrochloride | 475 mg, 36% | Cl.OC1=C(C=C(C=C1)C1=NC2=C(C=3C4=C(NC(C13)=O)C=C(C=C4)N4CCNCC4)C(=NN2)C)C(F)(F)F | InChI=1S/C25H21F3N6O2.ClH/c1-12-19-20-15-4-3-14(34-8-6-29-7-9-34)11-17(15)30-24(36)21(20)22(31-23(19)33-32-12)13-2-5-18(35)16(10-13)25(26,27)28;/h2-5,10-11,29,35H,6-9H2,1H3,(H,30,36)(H,31,32,33);1H
